US04020177
Preparation of 8-Acetyl-12-hydroxy-13-propoxytridecanoic acid
A mixture of ethyl 8-acetyl-12,13-epoxytridecanoate (14.9 g., 0.05 mole), propanol (60 ml.), sodium hydroxide (6.0 g., 0.15 mole) and water (15 ml.) is stirred 4 hours at 40°-45° and then heated 1 hour on the steam bath. The mixture is cooled, treated with water (250 ml.) and extracted with ether. The aqueous solution is acidified with hydrochloric acid. The oily product is taken up in ether, washed with water, and dried over sodium sulfate. Evaporation of the ether leaves the title compound as a pale yellow oil. Purification is effected by column chromatography on silica gel with 2% methanol in chloroform as the eluant.

reactant | ethyl 8-acetyl-12,13-epoxytridecanoate | 0.05 mole, 14.9 g | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC1CO1 | C17H30O4
reactant | propanol | 60 ml | C(CC)O | C3H8O
reactant | sodium hydroxide | 0.15 mole, 6.0 g | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 8-Acetyl-12-hydroxy-13-propoxytridecanoic acid | C(C)(=O)C(CCCCCCC(=O)O)CCCC(COCCC)O | C18H34O5
